US04892943
2-[4-[4-(3-Chloro-2-pyrazinyl)-1-piperazinyl]butyl]hexahydro-4,6-ethanocycloprop[f]isoindole-1,3(2H,3aH)-dione, hydrochloride
The title compound is prepared following the procedure of Example 1, using hexahydro-4,6-ethanocycloprop[f]isoindole-1,3-(2H,3aH)-dione instead of hexahydro-4,7-ethenocycloprop[f]isoindole-1,3(2H,3aH)-dione and 1-(3-chloro-2-pyrazinyl)piperazine instead of 1-(6-chloro-2-pyrazinyl)piperazine hydrochloride and is converted to the hydrochloride salt; m.p. 245°-246° C.

reactant | hexahydro-4,6-ethanocycloprop[f]isoindole-1,3-(2H,3aH)-dione | C1(NC(C2C3C4C(C(C12)CC3)C4)=O)=O | C11H13NO2
reactant | 1-(3-chloro-2-pyrazinyl)piperazine | ClC=1C(=NC=CN1)N1CCNCC1 | C8H11ClN4
product | 2-[4-[4-(3-Chloro-2-pyrazinyl)-1-piperazinyl]butyl]hexahydro-4,6-ethanocycloprop[f]isoindole-1,3(2H,3aH)-dione, hydrochloride | Cl.ClC=1C(=NC=CN1)N1CCN(CC1)CCCCN1C(C2C3C4C(C(C2C1=O)CC3)C4)=O | InChI=1S/C23H30ClN5O2.ClH/c24-20-21(26-6-5-25-20)28-11-9-27(10-12-28)7-1-2-8-29-22(30)18-14-3-4-15(17-13-16(14)17)19(18)23(29)31;/h5-6,14-19H,1-4,7-13H2;1H
